US08431538B2
5-Carbazol-9-ylpentanoic acid methyl ester (23)
To a round bottom flask fitted with reflux condenser containing carbazole (1.00 g, 5.98 mmol) and sodium hydride (60 wt. % in mineral oil, 0.29 g, 7.18 mmol), was added DMF (22 mL). After stirring at 50° C. for 20 min, ethyl 5-bromopentanoate (0.95 mL, 5.98 mmol) was added and the mixture stirred at 80° C. overnight. The reaction was quenched by addition of 5% aqueous NH4Cl (100 mL), transferred to a separatory funnel and extracted with ethyl acetate (3×40 mL). The combined organic layers were washed with brine (2×20 mL), dried (Na2SO4) and concentrated. Purification by MPCC (0-40% gradient of ethyl acetate in hexane) afforded the title compound (0.87 g, 49%). 1H NMR (400 MHz, CDCl3): δ 8.14 (d, 2H, J=7.8 Hz), 7.51 (t, 2H, J=7.2 Hz), 7.43 (d, 2H, J=8.2 Hz), 7.27 (t, 2H, J=7.4 Hz), 4.35 (t, 2H, J=7.1 Hz), 4.13 (q, 2H, J=7.1 Hz), 2.35 (t, 2H, J=7.3 Hz), 1.98-1.91 (m, 2H), 1.79-1.72 (m, 2H), 1.25 (t, 3H, J=7.1 Hz). 13C NMR APT (100 MHz, CHCl3): δ 173.2 (up), 140.3 (up), 125.6 (down), 122.89 (up), 120.4 (down), 118.9 (down), 108.6 (down), 60.4 (up), 42.7 (up), 33.9 (up), 28.4 (up), 22.7 (up), 14.2 (down). ESI-HRMS (m/z): [M+H]+ calcd. for C19H21NO2, 296.1645. found, 296.1650.

reactant | carbazole | 5.98 mmol, 1.00 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | sodium hydride | 7.18 mmol, 0.29 g | [H-].[Na+]
reactant | ethyl 5-bromopentanoate | 5.98 mmol, 0.95 mL | BrCCCCC(=O)OCC | C7H13BrO2
solvent | DMF | 22 mL | CN(C)C=O | C3H7NO
product | 5-Carbazol-9-ylpentanoic acid methyl ester | 0.87 g, 49% | COC(CCCCN1C2=CC=CC=C2C=2C=CC=CC12)=O | C18H19NO2
